US09029544B2
(3′R,6′S,9′S)-9′-(tert-butyldimethylsilyloxy)-4′-isopropyl-7′,7′-dimethyl-3′-(4-(trifluoromethyl)phenyl)-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinoline]-6′-yl acetate
250 mg (3′R,9′S)-9′-(tert-butyldimethylsilyloxy)-4′-isopropyl-7′,7′-dimethyl-3′-(4-(trifluoromethyl)phenyl)-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinoline]5′-oxide and 3 ml acetic acid anhydride are mixed and heated for 2 hours at 130° C. Excess acetic acid anhydride is removed in vacuo and the residue is diluted with diethylether. After washing with saturated aqueous sodium bicarbonate the organic phase is dried with sodium sulphate. The solvent is evaporated in vacuo and the residue is chromatographed on silica gel (hexane/ethylacetate 95:5).

reactant | (3′R,9′S)-9′-(tert-butyldimethylsilyloxy)-4′-isopropyl-7′,7′-dimethyl-3′-(4-(trifluoromethyl)phenyl)-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinoline]5′-oxide | 250 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=[N+](C2CC(C1)(C)C)[O-])C(C)C)[C@H](OC31CCCC1)C1=CC=C(C=C1)C(F)(F)F | C33H46F3NO3Si
reactant | acetic acid anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (3′R,6′S,9′S)-9′-(tert-butyldimethylsilyloxy)-4′-isopropyl-7′,7′-dimethyl-3′-(4-(trifluoromethyl)phenyl)-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinoline]-6′-yl acetate | C(C)(=O)O[C@H]1C(C[C@@H](C=2C3=C(C(=NC12)C(C)C)[C@H](OC31CCCC1)C1=CC=C(C=C1)C(F)(F)F)O[Si](C)(C)C(C)(C)C)(C)C | C35H48F3NO4Si
